US07872005B2
2-Methyl-4,6-dichlorotriazine (256 mmol) is dissolved in dichloromethane (200 mL) and chilled to −78° C. in an inert atmosphere. Morpholine (550 mol) dissolved in dichloromethane (100 mL) is added slowly. The reaction is allowed to warm to room temperature while stirring overnight. The organic layer is washed with saturated ammonium chloride (2×100 mL), dried with sodium sulfate, and evaporated to give 2-methyl-4-chloro-6-morpholino-triazine.

reactant | 2-Methyl-4,6-dichlorotriazine | 256 mmol | CN1NC(=CC(=N1)Cl)Cl | C4H5Cl2N3
reactant | Morpholine | 550 mol | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-methyl-4-chloro-6-morpholino-triazine | CN1NC(=CC(=N1)Cl)N1CCOCC1 | C8H13ClN4O
